reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C-:1]([N+:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[O:5])[N:6]([H:13])[H:14])[H:9])([H:7])[H:8]>>[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[O:5])[N:6]([H:13])[H:14])([H:7])([H:8])[H:9],16.3791661583966
[C-:5]#[O+:6].[O:1]([C:2]([C:3]([O:4][H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],56.6577965315725
[N:1]([C:2]1=[N:3][N:6]1/[C:5](=[N:4]/[H:9])[H:10])([H:7])[H:8]>>[N:1]([c:2]1[n:3][n:4]([H:9])[c:5]([H:10])[n:6]1)([H:7])[H:8],23.263701734029027
[C:5](=[O:6])([H:7])[H:11].[N:1]#[C:2][H:8].[O:3]=[C:4]([H:9])[H:10]>>[N:1](=[C:2](/[O:3][C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])[H:8])\[H:7],56.3557039318638
[C:1]([N:2][N:3]=[C:4]([N+:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([n:2]1[n:3][c:4]([H:10])[n:5][n:6]1)([H:7])([H:8])[H:9],18.22413313346491
[C:1]([C:2]#[C:3][H:11])([H:7])([H:8])[H:9].[C:4](=[O:5])=[N:6][H:10]>>[C:1]([C:2]#[C:3][C:4](=[O:5])[N:6]([H:10])[H:11])([H:7])([H:8])[H:9],56.9503110343629
[C:1]([O+:3]=[C-:2][C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10],46.471039335927
[C:1]([H:7])([H:8])([H:9])[H:17].[C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11].[O:5]=[C:6]([H:16])[H:18]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],89.3390889571539
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4](=[O:5])[C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4](=[O:5])[H:11])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10],75.3507354336312
[C:1]([C:2]([N:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([H:11])[H:12])([H:8])[H:9].[N:3]([C:4]([H:13])([H:14])[H:15])([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:10],83.6108734501914
[C:1]([C:2](=[C:3]([H:13])[H:14])[H:12])([H:8])([H:9])[H:10].[O:4]=[C:5]([O:6][H:11])[N:7]([H:15])[H:16]>>[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],38.2449898934132
[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9]>>[N:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])([H:14])/[C:6]1=[N:7]\[O:5][H:15])([H:8])[H:9],127.911612639209
[O:1]=[C:2]([O:3][C:4]([C:5]#[C:6][H:10])([H:8])[H:9])[H:7]>>[O:1]=[C:2]([O:3][C:4]([C:6](=[C:5])[H:10])([H:8])[H:9])[H:7],57.1311938438826
[C:6](=[O:7])([H:14])[H:15].[H:10][H:16].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:12])[H:13])[H:11])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9],42.8415941443617
[C:1]([O:4]/[C:3](=[N:2]/[C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3](=[O:4])[H:11])[C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])([H:8])([H:9])[H:10],55.77821202722579
[C:1]([C@@:2]([O:3][H:10])([C:4]#[N:5])[H:9])([H:6])([H:7])[H:8]>>[C:1]1([H:6])([H:8])[C@:2]([O:3][H:10])([H:9])/[C:4]1=[N:5]/[H:7],108.72135395101499
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C@@:4]([C:5]([H:15])([H:16])[H:17])([O:6][H:18])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]([H:15])([H:16])[H:17])=[O:6])[H:10])([H:7])([H:8])[H:9].[H:14][H:18],79.795147694334
[C:1]([C:2]([C:3]([C:4]([C:5]([H:15])([H:16])[H:17])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[C:3]([H:11])[H:12])[H:9])([H:6])([H:7])[H:8].[C:4](=[C:5]([H:16])[H:17])([H:13])[H:14].[H:10][H:15],96.05336723737459
[O:1]=[C:2]([C:3]([O+:4]=[C-:5][O:6][H:10])([H:8])[H:9])[H:7]>>[O:1]=[C:2]([C:3]([O:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7],31.8083540191898
[C:1]([C:2](=[O:3])[H:12])([H:7])([H:8])[H:9].[C:4](=[C:5]=[O:6])([H:10])[H:11]>>[C:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],49.726156136430696
[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C-:1]([N+:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])([H:8])[H:11])([H:9])[H:10],95.0171073918207
[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]#[C:3][C@:4]([C:5](=[O:6])[H:12])([C:7]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10],85.327955666205
[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:4]([C:2](=[O:3])[H:11])([H:13])[H:14])([H:8])([H:9])[H:10].[C:5](=[O:6])([N:7]([H:15])[H:16])[H:12],105.609942179058
[N:1]([C:2]([C:3]([O:4][H:12])([H:10])[H:11])=[C:5]=[N:6][H:9])([H:7])[H:8]>>[N:1]([C@@:2]([C:3]([O:4][H:12])([H:10])[H:11])([C:5]#[N:6])[H:9])([H:7])[H:8],61.64828617306569
